US06891060B2
In a flask, 60.0 g of 3-acetoxy-2-methylbenzoic acid are suspended under nitrogen in 140.0 g of xylene. The suspension is heated to 70° C. and 42.9 g of thionyl chloride are added dropwise. The mixture is heated further. At approx. 75° C., vigorous gas evolution (SO2, HCl) commences. The liquid phase temperature rises continuously and reaches 108° C. after approx. 4 h. The solution is cooled to approx. 50° C. under nitrogen and the reflux condenser is replaced by Vigreux column. At atmospheric pressure and later under reduced pressure, first xylene and thionyl chloride residues and then the product are distilled over. The product distills over at 15 mbar and 147.0-148.0° C. 59.6 g of 3-acetoxy-2-methylbenzoyl chloride (97.3%) are obtained. This corresponds to 91.0% of theory.

reactant | 3-acetoxy-2-methylbenzoic acid | 60.0 g | C(C)(=O)OC=1C(=C(C(=O)O)C=CC1)C | C10H10O4
reactant | thionyl chloride | 42.9 g | S(=O)(Cl)Cl | Cl2OS
reactant | HCl | Cl | ClH
solvent | xylene | 140.0 g | C=1(C(=CC=CC1)C)C | C8H10
product | 3-acetoxy-2-methylbenzoyl chloride | 59.6 g, 97.3% | C(C)(=O)OC=1C(=C(C(=O)Cl)C=CC1)C | C10H9ClO3
